US04760193
The procedure is as in Example 1, but employs 6-bromo-3-methyl-1,1-diethoxy-3,5-hexadiene (0.56 g; 2.12 mmol) and β-ionone (0.33 g; 1.716 mmol, i.e. 0.8 equivalent). After flash chromatography, 9-(2,6,6-trimethyl-1cyclohexenyl)-1,1-diethoxy-3,7-dimethyl-7-hydroxy-3,5,8-nonatriene, or C20 diethyl hydroxyacetal, (0.47 g) is obtained. The yield is 73%. The structure of the product obtained is confirmed by the infrared spectrum and the proton nuclear magnetic resonance spectrum.

reactant | 6-bromo-3-methyl-1,1-diethoxy-3,5-hexadiene | 2.12 mmol, 0.56 g | BrC=CC=C(CC(OCC)OCC)C | C11H19BrO2
reactant | β-ionone | 1.716 mmol, 0.33 g, 0.8 equivalent | CC1=C(C(CCC1)(C)C)/C=C/C(=O)C | C13H20O
product | 9-(2,6,6-trimethyl-1cyclohexenyl)-1,1-diethoxy-3,7-dimethyl-7-hydroxy-3,5,8-nonatriene | yield is 73% | CC1=C(C(CCC1)(C)C)C=CC(C=CC=C(CC(OCC)OCC)C)(O)C | C24H40O3
